US08431563B2
To a 50-mL round-bottomed flask was added 3-((6-methoxy-2-pyridinyl)methyl)-1-(2-thiophenylsulfonyl)piperazine (115 mg, 0.325 mmol), 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (126 mg, 0.390 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), dicyclohexyl(2′,4′,6′-triisopropyl-[1′,1′-biphenyl]-2-yl)phosphine (RuPhos)(62 mg, 0.13 mmol, Strem, Newburyport, Mass.), tris(dibenzylideneacetone)dipalladium (30 mg, 0.033 mmol, Strem, Newburyport, Mass.) and sodium tert-butoxide (94 mg, 0.98 mmol, Aldrich, St. Louis, Mo.) in toluene (5 mL). The reaction mixture was stirred at 100° C. for 18 h and then allowed to cool to room temperature and then diluted with saturated NH4Cl (5 mL) and extracted with EtOAc (2×40 mL). The organic extract was washed with saturated NaCl (5 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as a light-yellow oil. The crude product was purified by silica gel chromatography, eluting with 30% EtOAc/hexanes to give 1,1,1,3,3,3-hexafluoro-2-(4-(2-((6-methoxy-2-pyridinyl)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (146 mg) as a light-yellow tar (mixture of enantiomers).

reactant | 3-((6-methoxy-2-pyridinyl)methyl)-1-(2-thiophenylsulfonyl)piperazine | 0.325 mmol, 115 mg | COC1=CC=CC(=N1)CC1CN(CCN1)S(=O)(=O)C=1SC=CC1 | C15H19N3O3S2
reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.390 mmol, 126 mg | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | sodium tert-butoxide | 0.98 mmol, 94 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | NH4Cl | 5 mL | [NH4+].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.033 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1,1,3,3,3-hexafluoro-2-(4-(2-((6-methoxy-2-pyridinyl)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 146 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1C(CN(CC1)S(=O)(=O)C=1SC=CC1)CC1=NC(=CC=C1)OC)(F)F | C24H23F6N3O4S2
